US05552404
N-(Cyclopropyl)methylaniline was coupled with 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-(tert-butyldimethylsilyloxy)benzyl)benzoyl chloride, deprotected and purified by the methods described in Example 10 to give 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N-(cyclopropyl)methyl-N-phenylbenzamide as an off-white powder. NMR (200 MHz, DMSO-d6): δ0.09 (m, 2H); 0.39 (m, 2H); 0.92 (d, J=6.3 Hz,3H); 0.96 (d, J=6.2 Hz, 3H); 1.28 (m, 1H); 1.69 (dd, J1 =7.4 Hz, J2 =11.5 Hz, 1H); 2.04 (dd, J1 =6.6 Hz, J2 =11.0 Hz, 1H); 2.30 (br d, J=12.1 Hz, 1H); 2.40-2.54 (m, 2H); 2.67 (br d, J=9.8 Hz, 1H); 2.85 (dd, J1 =7.4 Hz, J2 =13.7 Hz, 1H); 3.16 (dd, J1 =4.5 Hz, J2 =14.7 Hz, 1H); 3.72 (d, J=7.0 Hz, 2H); 4.77 (s, 1H); 5.12 (d, J=10.0 Hz, 1H); 5.18 (d, J=15.6 Hz, 1H); 5.70-5.85 (m, 1H); 6.44 (d, J=7.3 Hz, 1H); 6.57 (s, 1H); 6.65 (d, J=8.0 Hz, 1H); 7.02-7.33 (m, 10H); 9.33 (s, 1H). Mass spectrum (CI--CH4) m/e: 510 (M+1, 61%), 356 (42%), 153 (100%). [α]D20 =+8.9° (abs. ethanol, c=1.1). The free amine was dissolved in ethanol and titrated with ethanolic hydrogen chloride to pH 3.75 followed by precipitation with diethyl ether from dichloromethane to give the monohydrochloride salt as a hygroscopic off-white powder. Calc. for C33H39N3O2HCl 1.25 H2O: C, 69.70; H, 7.53; N, 7.39; Cl, 6.23. Found: C, 69.82; H, 7.52; N, 7.36; Cl, 6.28.

reactant | N-(Cyclopropyl)methylaniline | C1(CC1)CNC1=CC=CC=C1 | C10H13N
reactant | 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-(tert-butyldimethylsilyloxy)benzyl)benzoyl chloride | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C=1C=C(C(=O)Cl)C=CC1)C | C29H41ClN2O2Si
product | 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N-(cyclopropyl)methyl-N-phenylbenzamide | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O)C=1C=C(C(=O)N(C2=CC=CC=C2)CC2CC2)C=CC1)C | C33H39N3O2
